US06884821B1
9.5 g of [(2-methoxy-3-pyridyl)methyl]azide was dissolved in 100 ml ethyl acetate, and 13 g of tertiary butyl dicarbonate and 3 g of 10% palladium-carbon were added, and the mixture was stirred at room temperature for 3 hours in a hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was concentrated, and the residue was purified by silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (5:1→44:1), 6.84 g of tertiary butyl N-[(2-methoxy-3-pyridyl)methyl]carbamate was obtained. 2.916 g of this crude product was dissolved in 30 ml acetonitrile, and 2.19 g of N-bromosuccimide was added. After stirring at room temperature for 3 days, the solvent was evaporated and the residue was dissolved in ethyl acetate. The organic layer was successively washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was washed with a mixed solvent of diethyl ether, ethyl acetate and hexane, to give 1.185 g of N-[(5-bromo-2-methoxy-3-pyridyl)methyl]carbamate.

reactant | [(2-methoxy-3-pyridyl)methyl]azide | 9.5 g | COC1=NC=CC=C1CN=[N+]=[N-] | C7H8N4O
reactant | tertiary butyl dicarbonate | 13 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 3 g | [C].[Pd]
product | tertiary butyl N-[(2-methoxy-3-pyridyl)methyl]carbamate | 6.84 g | COC1=NC=CC=C1CNC(OC(C)(C)C)=O | C12H18N2O3
